Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
dyspnea, chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ pmhx pre-diabetes, HLDD, obesity  who presented to ED as a
transfer for concerns of bilateral pulmonary embolism. 

Reports sudden onset dyspnea ___. Exertional and
pleuritic chest soreness, left sided, radiating to L scapula. 
PCP
prescribed an inhaler for her without improvement. 

Symptoms worsened progressively even with minimal exertion. 

+ dry cough
- fever

Travel to ___ in ___ with pain behind R knee after the
flight. No swelling she noted.

Given lack of improvement she took 4 doses of baby aspirin and
presented to ___. There she had blood work done
pertinent for elevated troponin of 0.27 and elevated BNP. CTA 
was
done with evidence of bilateral PE concerning for right heart
strain. Patient was started on heparin bolus and drip 
transferred
here for further care.

In the ED she was evaluated by ___ as well as ED team. 

98.6 HR 82 BP 138/87 RR 22 Po2 96% 3L NC 

proBNP 3327
Trop 0.02
PTT 150

EKG: TWIs in anterior leads and RSR' in in V1

TTE at bedside which revealed a dilated RV, RV hypokinesis, and
reduced septal motion. She has good LV function with a normal
ejections fraction and perhaps mild LVH.

CTA chest- extensive bilateral PE w/ signifcant clot burden and
CT angio finding suggesting possible R heart strain.

1.4x1.4 x 2.5 cm subpleural wedge-shaped ocapicty L upper love
with associated L upper lobe airspace opacity suggesting 
possible
pulm infarct

On the floor she confirms the above history. Symptoms have
markedly improved by the time she arrived on the floor. Is
talking in full sentences without dyspnea, laying flat which she
has not done since ___. 

She adds that she has not eaten well d/t anorexia of unclear 
etio
in last 1.5-2 weeks. She is therefor 15lbs down from her typical
weight on admission. She also notes substantial weight loss over
the last year which was intentional after being told she is
pre-diabetic. 
No fevers, ns, chronic cough.

REVIEW OF SYSTEMS:  
Positive per HPI.  
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- pre-diabetes
- HLD

2. CARDIAC HISTORY  
- no prior cardiac history

3. OTHER PAST MEDICAL HISTORY  
- obesity
 
Social History:
___
Family History:
FAMILY HISTORY:  
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
No family history of clots.

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================  
VS: 98.2 PO 92 / 69 L Lying 100 18 94 3l 
GEN: well appearing, NAD
HEENT: MMM
CV: RRR nl s1/s2, no mrg
PULM: CTA b/l no wrc, no accessory muscle use
GI: S/ND/NT
EXT: WWP non-edematous

LABS AND MICROBIOLOGY: Reviewed, see attached below  

EKG:  TWIs in anterior leads and RSR' in in V1
LAST 2D-ECHOCARDIOGRAM:  none
LAST STRESS TEST:  none
CARDIAC CATH Hx:  none

DISCHARGE PHYSICAL EXAMINATION:
===============================
24 HR Data (last updated ___ @ 629)
    Temp: 98.5 (Tm 98.5), BP: 110/72 (95-110/61-78), HR: 88
(79-98), RR: 18, O2 sat: 90% (90-95), O2 delivery: Ra, Wt: 
221.56
lb/100.5 kg  

GEN: well-appearing, NAD
HEENT: MMM
CV: RRR, nl s1/s2, no m/r/g, no JVD above the clavicle seated
upright
PULM: CTA b/l no w/r/c, no accessory muscle use
GI: soft non tender non distended
EXT: WWP, non-edematous

 
Pertinent Results:
ADMISSION LABS
___ 05:30PM BLOOD WBC-8.1 RBC-4.49 Hgb-13.1 Hct-39.9 MCV-89 
MCH-29.2 MCHC-32.8 RDW-13.4 RDWSD-43.6 Plt ___
___ 05:30PM BLOOD ___ PTT-150* ___
___ 05:30PM BLOOD Glucose-133* UreaN-12 Creat-0.8 Na-138 
K-4.6 Cl-102 HCO3-21* AnGap-15
___ 05:30PM BLOOD proBNP-3327*
___ 05:30PM BLOOD cTropnT-0.02*
___ 06:50AM BLOOD ALT-20 AST-22 AlkPhos-120* TotBili-0.6
___ 06:50AM BLOOD Calcium-9.0 Phos-4.1 Mg-2.0

RELEVANT STUDIES 
CONCLUSION:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler.
The estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with
a normal cavity size. There is normal regional and global left 
ventricular systolic function. There is no resting
left ventricular outflow tract gradient. No ventricular septal 
defect is seen. Mildly dilated right ventricular
cavity with focal hypokinesis of the basal free wall 
___ sign). There is abnormal interventricular
septal motion c/w right ventricular pressure overload. The 
aortic sinus diameter is normal for gender with
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. There is no evidence for an
aortic arch coarctation. The aortic valve leaflets (?#) appear 
structurally normal. There is no aortic valve
stenosis. There is no aortic regurgitation. The mitral valve 
leaflets appear structurally normal with no mitral
valve prolapse. There is trivial mitral regurgitation. The 
tricuspid valve leaflets appear structurally normal.
There is mild [1+] tricuspid regurgitation. There is moderate to 
severe pulmonary artery systolic
hypertension. There is a trivial pericardial effusion.
IMPRESSION: Dilated and hypokinetic right ventricle, c/w 
pulmonary embolism. Moderate to severe
pulmonary hypertension. These findings suggest underlying 
pulmonary hypertension prior to onset of this
pulmonary embolism (e.g. CTEPH, pre-existing pulmonary 
parenchymal disease, etc.)

___
___ U/S
IMPRESSION:    
Deep venous occlusive thrombus in the left popliteal vein. 
  
NOTIFICATION:  The findings were discussed with ___, M.D. 
by ___ 
___, M.D. on the telephone on ___ at 6:48 pm, 4 hours 
after discovery of the findings. 

DISCHARGE LABS
___ 06:55AM BLOOD WBC-5.8 RBC-4.14 Hgb-11.8 Hct-36.5 MCV-88 
MCH-28.5 MCHC-32.3 RDW-13.4 RDWSD-42.9 Plt ___
___ 06:55AM BLOOD Glucose-127* UreaN-11 Creat-0.7 Na-142 
K-4.7 Cl-104 HCO3-23 AnGap-15
___ 06:55AM BLOOD Calcium-9.2 Phos-3.9 Mg-2.___ year old female with a history of pre-diabetes, HLD, and 
obesity presenting with shortness of breath and pleuritic chest 
pain, found to have unprovoked submassive PE with right heart 
strain. Patient was hemodynamically stable throughout admission 
and was treated with heparin drip and discharge on Apixaban with 
plan for at least 3 month course.

=============== 
ACTIVE ISSUES: 
=============== 
# Submassive PE
# L Popliteal DVT
Patient with bilateral PE with right heart strain on TTE. TTE 
showed RV dilation and hypokinesis as well as elevated pulmonary 
arterial pressures suggestive of long standing pulmonary disease 
or CTEPH. ___ U/S additionally showed L popliteal vein DVT. No 
clear provocation for DVT, patient says she has been having 
increased fatigue as well as 14 lbs of weight loss since she 
traveled to ___ in ___. She states that immediately after 
coming back from ___ she had several days of flu-like 
symptoms including cough, congestion, fevers, but these resolved 
after two or three days. She otherwise has not had any serious 
illness or recent surgery. She is up to date on age appropriate 
cancer screening, though notably has substantial ___ hand 
smoking exposure and reportedly by PCP has evidence of COPD on 
imaging. Patient was treated with IV heparin and transitioned to 
PO anticoagulation with Apixaban. Will need 1 week of Apixaban 
10mg BID followed by at least 3 months of 5mg BID. 

# Weight loss
Has had some intentional weight loss, but 14 lbs of uninitential 
loss in the last couple of months. Subacutely ___ anorexia could 
have represented earlier stages of PE causing malaise & 
decreased appetite. Some concerning factors for underlying 
malignancy given fatigue, weight loss, hx of second hand smoke 
exposure. Patient
reports an ovarian benign mass removed in ___, no family hx of 
cancer. Last colonoscopy ___ years ago was normal. 

TRANSITIONAL ISSUES
====================
[] Outpatient colonoscopy 
[] Apixaban 10mg BID for 1 week, start 5mg BID ___ for at least 
3 months
[] Prelim planned for at least 3 months of anticoagulation, but 
can decide if think she needs longer
[] Once acute clot resolved, consider setting up with pulmonary 
follow up for possible COPD and possible underlying pulmonary 
HTN unrelated to her PE
[] Ensure up to date with all age appropriate cancer screening

# CODE STATUS: full confirmed
# CONTACT ___ (son) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth TWICE A DAY 
Disp #*14 Tablet Refills:*0 
2.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth TWICE A DAY 
Disp #*60 Tablet Refills:*0 
3.  Atorvastatin 80 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
==================
Submassive pulmonary embolism

Secondary diagnoses
===================
Prediabetes
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a pleasure participating in your care. Please read 
through the following information.

WHY WAS I ADMITTED TO THE HOSPITAL? 
You were admitted to the hospital because you had been feeling 
short of breath and having chest pain.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL? 
When you were admitted we did imaging of your lungs which showed 
a large clot in your lungs (pulmonary embolism). We treated you 
with a blood thinner. We also did an ultrasound of your legs 
which showed some clots in your left leg. 

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below). You 
will need to take a blood thinner for at least 3 months and 
potentially longer. 
- Follow up with your doctors as listed below  
 
We wish you the best!  

-Your ___ Care Team  
 
Followup Instructions:
___